US07106489B2
9.6 g of 3-phenyl-1-bromopropane were added dropwise over the course of 45 min to 15.0 g of 4,4′-bipyridyl in 90 ml of toluene at 70° C. The mixture was stirred for 24 h at reflux temperature, cooled down and the solid was filtered off with suction. The solid was stirred in 90 ml of toluene for 4 h at reflux temperature, cooled down, filtered off with suction and washed with toluene. Drying in vacuo gave 14.3 g (85% of theory) 4-(4-pyridyl)-1-(3-phenylpropyl)pyridinium bromide.

reactant | 3-phenyl-1-bromopropane | 9.6 g | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | 4,4′-bipyridyl | N1=CC=C(C=C1)C1=CC=NC=C1 | C10H8N2
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-pyridyl)-1-(3-phenylpropyl)pyridinium bromide | 14.3 g, 85% | [Br-].N1=CC=C(C=C1)C1=CC=[N+](C=C1)CCCC1=CC=CC=C1 | InChI=1S/C19H19N2.BrH/c1-2-5-17(6-3-1)7-4-14-21-15-10-19(11-16-21)18-8-12-20-13-9-18;/h1-3,5-6,8-13,15-16H,4,7,14H2;1H/q+1;/p-1
